US06750350B2
Step 1D 4-(3-methoxyphenyl)-5-methyl-6-(2-fluorobenzyl)-2-(2-hydroxyethyl)-pyridazin-3-one
A solution of 2-(2-fluorophenyl)-3-hydroxy-4-methyl-5-(3-methoxyphenyl)-2,4-cyclopentadienone (620 mg, 2 mmol) and hydroxylethylhydrazine (360 mg, 45 mmol)) in ethanol (5 mL) was heated at reflux for 6 hours. The resulting solution was concentrated in vacuo and the residue was dissolved in ethyl acetate (80 mL), washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired compound as colorless oil. MS: 369 (MH+).

reactant | 2-(2-fluorophenyl)-3-hydroxy-4-methyl-5-(3-methoxyphenyl)-2,4-cyclopentadienone | 2 mmol, 620 mg | FC1=C(C=CC=C1)C=1C(C(=C(C1O)C)C1=CC(=CC=C1)OC)=O | C19H15FO3
reactant | hydroxylethylhydrazine | 45 mmol, 360 mg | OCCNN | C2H8N2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(3-methoxyphenyl)-5-methyl-6-(2-fluorobenzyl)-2-(2-hydroxyethyl)-pyridazin-3-one | COC=1C=C(C=CC1)C=1C(N(N=C(C1C)CC1=C(C=CC=C1)F)CCO)=O | C21H21FN2O3
